2200-11-27 07:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Respiratory failure, femoral fracture
   24 Hour Events:
   - Diuresed agressively and ended up giving 250 ml back due to low UOP
   O/N, total I/O neg 1.3 liters
   - HCP [**Name (NI) 384**] [**Name (NI) 7080**] consents to surgery, therefore, patient not
   extubated only to be reintubated again
   - Serial hematocrit remained stable
   Allergies:
   Gentamicin
   Unknown; Rash;
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Fentanyl - [**2200-11-26**] 07:49 AM
   Insulin - Regular - [**2200-11-26**] 11:23 AM
   Furosemide (Lasix) - [**2200-11-26**] 02:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-11-27**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.9
C (98.5
   HR: 88 (70 - 93) bpm
   BP: 136/40(64) {99/38(55) - 167/67(93)} mmHg
   RR: 20 (15 - 26) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    555 mL
                                                                    270 mL
   PO:
             TF:
   IVF:
                                                                    135 mL
                                                                    270 mL
   Blood products:
   Total out:
                                                                  2,025 mL
                                                                    185 mL
   Urine:
                                                                  2,025 mL
                                                                    185 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,470 mL
                                                                     85 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 459 (353 - 504) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   Plateau: 17 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 93%
   ABG: 7.44/46/115/29/6
   Ve: 6.7 L/min
   PaO2 / FiO2: 287
   Physical Examination
   General Appearance: Intubated, sedated
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bases anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, Left leg splinted
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   231 K/uL
   11.2 g/dL
   117 mg/dL
   1.2 mg/dL
   29 mEq/L
   3.7 mEq/L
   18 mg/dL
   106 mEq/L
   144 mEq/L
   31.1 %
   16.8 K/uL
        [image002.jpg]
                            [**2200-11-26**]  08:42 AM
                            [**2200-11-26**]  04:07 PM
                            [**2200-11-26**]  07:43 PM
                            [**2200-11-27**]  03:33 AM
   WBC
   18.5
   16.8
   Hct
   30.4
   31.7
   31.1
   Plt
   254
   231
   Cr
   0.9
   1.2
   TropT
   <0.01
   <0.01
   <0.01
   TCO2
   32
   Glucose
   146
   117
   Other labs: PT / PTT / INR:17.1/38.4/1.5, CK / CKMB /
   Troponin-T:462/4/<0.01, ALT / AST:[**9-3**], Alk Phos / T Bili:91/0.7,
   Differential-Neuts:82.8 %, Lymph:10.2 %, Mono:6.4 %, Eos:0.3 %, LDH:230
   IU/L, Ca++:8.7 mg/dL, Mg++:1.8 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   83 year-old female with history of systolic and diastolic CHF with EF
   50%, hypertension presenting status post a mechanical fall at home with
   left femoral shaft fracture and intubated in the ED for presumptive
   flash pulmonary edema.
   # Respiratory failure: In the ED, the patient developed hypertension to
   the 220s/100s and rales, became hypoxemic, and was subsequently
   intubated despite preexisiting wish for DNR/DNI.  Based on this history
   and her chest imaging, it appears as if the patient developed flash
   pulmonary edema in the setting of hypertensive crisis.  She had lateral
   ST depressions on EKG and we will repeat EKG and send cardiac enzymes
   to evaluate for ischemia.  She does not appear to have an underlying
   pulmonary process such as pneumonia or underlying chronic obstructive
   pulmonary disease.
   - Need to discuss goals of care with family
 if no wish for OR for
   fracture repair, will diurese and extubate
   - Lasix 30 mg IV x 1, goal -1L
   - Continue home regimen of aspirin, metoprolol, lisinopril
   - Discontinue nitroglycerin gtt
   - Repeat EKG, monitor cardiac enzymes
   - Pain control with fentanyl gtt
   # Left femoral shaft fracture: Reduced/splinted in the ED.
   - Need to discuss goals of care with family and whether the patient and
   family desire fracture repair in the OR
   - Followed by Orthopedics
   - Fentanyl for pain
   - Continue calcium and vitamin D
   # Status post fall: Mechanical in nature per original description per
   patient, but will need to confirm once extubated.  Head CT without
   acute process.
   - Left femoral shaft fracture as above
   - Followed by Trauma Surgery with clearing of C-spine film
   - Clinically clear C-spine when extubated
   # Leukocytosis: Patient has a urinary tract infection - history of
   pan-sensitive E. coli.  No other localizing signs or symptoms.  Chest
   x-ray without consolidation.
   - Ciprofloxacin 250 mg IV Q12 x 3 days
   - Will add-on urine culture to admission urinalysis if possible and
   obtain blood cultures
   # Chronic systolic and diastolic heart failure: EF 50%.
   - Treatment as above with metoprolol, lisinopril, lasix
   # Hypertension: Became hypertensive in the ED, likely due to pain, and
   developed flash pulmonary edema.
   - Treatment as above with metoprolol, lisinopril, lasix
   - Fentanyl for pain
   # Anemia: Baseline mid-to-low 30s, currently 37.
   - Monitor
   # Chronic renal failure: Baseline creatinine 0.9; at baseline.  GFR 46.
   - Renally dose medications
   - Monitor
   # Depression: No acute issues.
   - Continue fluoxetine
   ICU Care
   Nutrition:
   Comments: NPO for OR
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2200-11-26**] 08:02 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: ICU

2200-11-27 09:27:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Please see previous notes for details. Briefly, 83 year old woman with
   mechanical fall resulting in femoral shaft fracture. Intubated inthe ED
   [**1-11**] presumed flash pulmonary edema. Remains intubated in anticipation
   of surgery.
   24 Hour Events:
   Aggresively diuresed yesterday.
   Allergies:
   Gentamicin
   Unknown; Rash;
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 35 mcg/hour
   Other ICU medications:
   Insulin - Regular - [**2200-11-26**] 11:23 AM
   Furosemide (Lasix) - [**2200-11-26**] 02:15 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-11-27**] 09:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.2
C (99
   HR: 90 (70 - 93) bpm
   BP: 149/46(68) {99/38(55) - 167/67(93)} mmHg
   RR: 20 (15 - 26) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    555 mL
                                                                    366 mL
   PO:
             TF:
   IVF:
                                                                    135 mL
                                                                    276 mL
   Blood products:
   Total out:
                                                                  2,025 mL
                                                                    185 mL
   Urine:
                                                                  2,025 mL
                                                                    185 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,470 mL
                                                                    181 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 452 (353 - 504) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   Plateau: 17 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 92%
   ABG: 7.44/46/115/29/6
   Ve: 8.5 L/min
   PaO2 / FiO2: 287
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right: Trace, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   11.2 g/dL
   231 K/uL
   117 mg/dL
   1.2 mg/dL
   29 mEq/L
   3.7 mEq/L
   18 mg/dL
   106 mEq/L
   144 mEq/L
   31.1 %
   16.8 K/uL
         [image002.jpg]
                            [**2200-11-26**]  08:42 AM
                            [**2200-11-26**]  04:07 PM
                            [**2200-11-26**]  07:43 PM
                            [**2200-11-27**]  03:33 AM
   WBC
   18.5
   16.8
   Hct
   30.4
   31.7
   31.1
   Plt
   254
   231
   Cr
   0.9
   1.2
   TropT
   <0.01
   <0.01
   <0.01
   TCO2
   32
   Glucose
   146
   117
   Other labs: PT / PTT / INR:17.1/38.4/1.5, CK / CKMB /
   Troponin-T:462/4/<0.01, ALT / AST:[**9-3**], Alk Phos / T Bili:91/0.7,
   Differential-Neuts:82.8 %, Lymph:10.2 %, Mono:6.4 %, Eos:0.3 %, LDH:230
   IU/L, Ca++:8.7 mg/dL, Mg++:1.8 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   83 year old woman with PMH HTN, systolic and diastolic heart failure
   now s/p left femoral shaft fracture. Intubated in the ED for flash
   pulmonary edema.
   Now diuresed agressively and effectively afterload reduced. Plan for OR
   today for femoral repair. On PS 5/5 overnight with adequate gas
   exchange. Will reasses post-op.
   Further plans as per resident note.
   ICU Care
   Nutrition:
   Comments: NPO for OR
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2200-11-26**] 08:02 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held  Comments:
   Code status: DNR
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill